Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
amoxicillin
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
EUS + ERCP ___

 
History of Present Illness:
HPI:  ___ year old female w/PMH of asthma, obesity presenting 
with
persistent abdominal pain since ___ transferred from ___ on ___ p.m. for concern for elevated LFTs and consult
for ERCP. Patient reports she started having abdominal pain,
non-bloody emesis, and chills after eating salmon/salad on
___. She denies diarrhea and reports having normal bowel
movements since then. Given concern for lightheadedness and
nausea and persistent abdominal pain on ___, she presented to
her PCP ___ ___ and was sent to ___ after noted to
have elevated LFTs and CBD dilation of 14 mm. Reports current
abdominal pain is ___. 

Patient also reports episode of vertigo last week, went to PCP 
on
___ and had ear wax removal and felt improved. Recent travel
to ___ two weeks prior and to ___ last week. She
is also concerned she may have eaten a piece of steak in a wrong
manner on ___ and 'felt it going down.' In addition, she is
also concerned she had flashes of flight that she noted in her
eyes last week, went to ophthalmologist last week and was told 
to
monitor.

Reports having one glass of sangria last week. Has stopped 
taking
Tylenol since ___ when she was found to have elevated LFTs in
the setting of pneumonia. 

Last reported eating two bites of ___ muffin this a.m. with
fruit jam, cream of wheat ___ night, and scrambled eggs 
___
night. 

Temp of 99.2 at ___ office on ___. At ___ ___, her vitals were
T: 98.3, BP: 116/73, HR: 72, RR: 16, O2: 99% RA. At OSH, her CT
abdomen/pelvis was negative for appendicitis, however concerning
for enlargement of CBD up to 14 mm, last scan in ___ showed a
9.8 mm dilatation.

She denies current chest pain, SOB, dysuria, headache,
lightheadedness, fevers/chills. 

ROS:
All other systems reviewed and negative, specifically, denies: 
numbness/weakness, chest pain, shortness of breath, fevers,
nausea, diarrhea, bleeding, rash, joint aches/pains.
 
Past Medical History:
Hyperlipidemia
L5 compression fracture ___ ___t work
Pneumonia ___ requiring hospitalization 
 
Social History:
___
Family History:
Mother: irritable bowel syndrome, hyperlipidemia, osteoporosis
Father: CAD, melanoma; paternal grandfather: CAD
2 daughters; one daughter: age ___: crohns disease; 
Breast cancer: maternal grandmother and aunt

 
Physical Exam:
ADMISSION
VS: BP: 103/71, T: 98.2, HR: 87, RR: 18, O2: 97% RA
General Appearance: pleasant, comfortable, no acute distress
Eyes: PERLL, EOMI, no conjuctival injection, anicteric
ENT: no sinus tenderness, MMM, oropharynx without exudate or
lesions, no supraclavicular or cervical lymphadenopathy, no JVD,
no carotid bruits, no thyromegaly or palpable thyroid nodules
Respiratory: CTA b/l with good air movement throughout
Cardiovascular: NS1/S2, RRR, ___ systolic murmur
Gastrointestinal: soft, obese, NABS, TTP RUQ/RLQ and epigastric
tenderness appreciated, no rebound or guarding
Extremities: trace pitting edema, +2 DP pulses
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
Neurological: Alert, oriented to self, time, date, reason for
hospitalization.  Cn II-XII intact.
MSK:   ___ strength throughout.  

DISCHARGE
VS: 98.4 107 / 60 67 18 96 Ra 
Gen - supine in bed, comfortable
Eyes - EOMI, anicteric
ENT - OP clear, MMM
Heart - RRR no mrg
Lungs - CTA bilaterally
Abd - soft; mild RUQ tenderness; negative murphys; no 
rebound/guarding; normal bowel sounds 
Ext - no edema
Skin - no rashes, no jaundice
Vasc - 2+ DP/radial pulses
Neuro - AOx3, moving all extremities
Psych - appropriate

 
Pertinent Results:
ADMISSION
___ 12:40AM BLOOD WBC-9.3 RBC-4.85 Hgb-13.9 Hct-43.8 MCV-90 
MCH-28.7 MCHC-31.7* RDW-14.1 RDWSD-46.8* Plt ___
___ 06:55AM BLOOD Glucose-97 UreaN-11 Creat-0.6 Na-141 
K-3.6 Cl-101 HCO3-23 AnGap-17*
___ 06:55AM BLOOD ALT-656* AST-190* AlkPhos-258* 
TotBili-1.1 DirBili-0.4* IndBili-0.7

DISCHARGE
___ 06:50AM BLOOD WBC-7.7 RBC-4.03 Hgb-11.8 Hct-35.1 MCV-87 
MCH-29.3 MCHC-33.6 RDW-13.8 RDWSD-44.0 Plt ___
___ 06:50AM BLOOD Glucose-67* UreaN-10 Creat-0.6 Na-143 
K-4.0 Cl-103 HCO3-26 AnGap-14
___ 06:50AM BLOOD ALT-398* AST-71* AlkPhos-222* TotBili-0.8

EUS
Impression:
EUS was performed using a linear echoendoscope at ___ MHz 
frequency.
The head and uncinate pancreas were imaged from the duodenal 
bulb and the second / third duodenum. The body and tail 
[partially] were imaged from the gastric body and fundus. The 
bile duct was imaged at the level of the porta-hepatis, head of 
the pancreas and ampulla.
Pancreas parenchyma: The parenchyma of the pancreas was 
homogenous, with a normal “salt and pepper” appearance.
Pancreas duct: The pancreas duct was normal in echotexture and 
contour and caliber.
Bile duct: The bile duct was not dilated. A single intrinsic 
stone was noted.
Ampulla: The ampulla appeared normal endoscopically and 
sonographically. 
Recommendations:
If any fever, worsening abdominal pain, or post procedure 
symptoms, please call the advanced endoscopy fellow on call 
___/ pager ___.
Advanced to ERCP

ERCP
Impression:
Limited exam of the esophagus was normal.
Limited exam of the stomach showed a nodulaire lesion with 
central depression in the antrum, most consistent with a 
pancreatic rest.
Limited exam of the duodenum was normal.
The scout film was normal. The major papilla was normal.
The major papilla was successfully cannulated using a Rx 
sphincterotome preloaded with 0.035in guidewire.
Contrast was injected and there was brisk flow through the 
ducts. Contrast extended to the entire biliary tree. Contrast 
injection revealed a filling defect in the lower CBD consistent 
with a stone.
A biliary sphincterotomy was made with a sphincterotome. There 
was mild post-sphincterotomy oozing which was self-limited. The 
sphincetrotomy was completed with a sphincteroplasty. A balloon 
sphincteroplasty was successfully performed using a 8-10mm CRE 
balloon up to 10mm.
The biliary tree was swept with a 9-12mm balloon starting at the 
bifurcation. One stone and sludge were removed.
The CBD and CHD were swept repeatedly until no further stones 
were seen.
The final occlusion cholangiogram showed no evidence of filling 
defects in the CBD.
Excellent bile and contrast drainage was seen endoscopically and 
fluoroscopically. 
Recommendations:
Follow for response and complications. If any abdominal pain, 
fever, jaundice, gastrointestinal bleeding please call Advanced 
Endoscopy Fellow on call ___
NPO overnight with aggressive IV hydration with LR at 200 cc/hr
If no abdominal pain in the morning, advance diet to clear 
liquids and then advance as tolerated
No aspirin, Plavix, NSAIDS, Coumadin for 5 days.
Discussed with primary team.
EGD +/- EUS to assess the nodular lesion in the antrum in ___ 
months.
 
Brief Hospital Course:
This is a ___ year old female past medical history of obesity, 
remote cholecystectomy referred admitted ___ with 
abdominal pain, nausea, abnormal LFTs, status post ERCP showing 
choledocholithiasis with obstruction, status post 
sphincterotomy and balloon extraction of stone and sludge, 
subsequently improving, able to be discharged home

# Choledocholithiasis with obstruction
# Transaminitis 
Patient presented with abdominal pain, with moderately elevated 
LFTs.  Patient underwent EUS concerning for a stone in the CBD 
with concern for obstruction, so an ERCP was performed with 
biliary sphincterotomy, sphincteroplasty, and balloon extraction 
of single stone and sludge.  Patient was subsequently clinically 
stable overnight without signs of bleeding or infection.  
Patient able to advance diet to regular without issue.  Patient 
discharged home with instructions to avoid NSAIDs, aspirin for 5 
days.  

# Abnormal endoscopic finding of gastric antrum
ERCP showed "Limited exam of the stomach showed a nodular lesion 
with central depression in the antrum, most consistent with a 
pancreatic rest." Per advanced endoscopy, will need EGD +/- EUS 
to assess the nodular lesion in the antrum in ___ months. 

# Hyperlipidemia
Given abnormal LFTs above, instructed patient to hold statin 
until PCP ___

# GERD
Continued omeprazole

# Abnormal CT kidney
# Abnormal CT L2 vertebrae
# Abnormal CT ileum
Outpatient CT ordered by PCP incidentally showed "Right renal 
midpole cortical low attenuating lesion, correlates with prior 
report with imaging characteristics suggestive of an 
angiomyolipoma"; also showed "Mild submucosal fat deposition 
terminal ileum, nonspecific may be related to chronic 
inflammation"; also showed "Superior endplate wedge compression 
deformity L2 vertebral body, age indeterminate." Started calcium 
and vitamin D prior to discharge.  Would consider discussion of 
these findings and any additional management at ___. 

TRANSITIONAL ISSUES
- ALT 398, AST 71, AP 222, Tbili 0.8 at discharge; would 
consider repeat at ___ to ensure normalization
- Incidental ERCP and CT findings above, with recommended 
___ as above 

> 30 minutes spent on this discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO EVERY OTHER DAY 
2. Albuterol Inhaler ___ PUFF IH Q6H:PRN shortness of breath 
3. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral DAILY  
2.  Albuterol Inhaler ___ PUFF IH Q6H:PRN shortness of breath  
3.  Omeprazole 20 mg PO DAILY  
4. HELD- Atorvastatin 20 mg PO EVERY OTHER DAY  This medication 
was held. Do not restart Atorvastatin until you see your primary 
care doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Choledocholithiasis with obstruction
# Transaminitis 
# Abnormal endoscopic finding of gastric antrum
# Hyperlipidemia
# GERD
# Abnormal CT kidney
# Abnormal CT L2 vertebrae
# Abnormal CT ileum

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___: 

It was a pleasure caring for you at ___.  You were admitted 
with abdominal pain and abnormal liver function tests.  You were 
seen by GI specialists who performed a special endoscopy 
(endoscopic ultrasound and endoscopic retrograde 
cholangiopancreatography).  This showed a stone in your bile 
duct, which was removed.  

You improved and are now able to be discharged home.  

Please avoid any blood thinning medication (NSAIDs, aspirin) for 
5 days. 

It will be important for you to: 

(1) Discuss with your primary care doctor about rechecking your 
liver tests at your ___ appointment

(2) Discuss with your primary care doctor about the small 
compression fracture seen on your CAT scan, and any other 
findings on the CAT scan they think are important

(3) Schedule a repeat endoscopy for ___ months (to assess small 
irregular area in your stomach that was seen this admission).  
If you do not hear from them within ___ weeks, you can call them 
at ___ 
 
Followup Instructions:
___